US08377874B2
Step 1: 3-Bromo-7-methoxyquinoline 1-oxide
To a solution of 3-bromo-7-methoxyquinoline (2.0 g, 8.40 mmol) in DCM (42 mL) at RT, mCPBA (2.9 g, 16.8 mmol) was added, and the reaction mixture was stirred at RT for 1 hour. A second portion of mCPBA (2.9 g, 16.8 mmol) was then added, and the reaction mixture was stirred at RT for 18 hours. The reaction mixture was poured onto 10% aqueous Na2SO3 and DCM, and the layers were separated. The organic layer was washed with NaHCO3, dried over MgSO4, filtered and concentrated. The resulting product was used with no further purification. LRMS (M+H)+=254.2.

reactant | 3-bromo-7-methoxyquinoline | 8.40 mmol, 2.0 g | BrC=1C=NC2=CC(=CC=C2C1)OC | C10H8BrNO
reactant | mCPBA | 16.8 mmol, 2.9 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 16.8 mmol, 2.9 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 42 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-7-methoxyquinoline 1-oxide | BrC=1C=[N+](C2=CC(=CC=C2C1)OC)[O-] | C10H8BrNO2
